* Z:\mnt\design.r\spice\examples\2323-16.asc
V2 N001 0 PWL(0 0 .1u 5)
C1 OUT1 0 10p
Va+ N003 0 PWL(0 0 200u 4.096)
Va- N005 0 PWL(0 4.096 200u 0)
V1 N006 0 PULSE(0 1.8 227n .1n .1n 40n 199.5n)
Vsclk1 sclk1 0 PULSE(0 1.8 9.5n .1n .1n 4.05625n 8.3125n)
Bsclk N007 0 V=if(V(sclk2)>V(sclk1),V(sclk2),V(sclk1))
Vsclk2 sclk2 0 PULSE(0 1.81 11.875n .1n .1n 66.5n 199.5n)
V3 N002 0 1.8
XU1 N001 N003 N005 NC_01 N004 N006 N007 OUT1 NC_02 N002 0 LTC2323-16
C2 N004 0 10µ
.tran 200u
* SCLK and _CNV\nare shown in timing\ndiagram on page 10\nof LTC2323-16 data sheet
.lib LTC2323-16.sub
.backanno
.end
